US06194406B1
3-Methoxy-4,5-ethylenedioxybenzoic Acid
Combine methyl 3-methoxy-4,5-ethylenedioxybenzoate (0.46 g, 2.0 mmol) and tetrahydrofuran (15 mL). Add a 1 M aqueous solution of lithium hydroxide (2.5 mL, 2.5 mmol). Heat to reflux. After 15 hours, cool the reaction, concentrate in vacuo to remove most of the tetrahydrofuran. Cool in a ice bath and acidify with a 1 M aqueous hydrochloric acid solution to give a solid. Collect the solid by filtration and dry to give the title compound.

reactant | methyl 3-methoxy-4,5-ethylenedioxybenzoate | 2.0 mmol, 0.46 g | COC=1C=C(C(=O)OC)C=C2C1OCCO2 | C11H12O5
reactant | lithium hydroxide | 2.5 mmol, 2.5 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-Methoxy-4,5-ethylenedioxybenzoic Acid | COC=1C=C(C(=O)O)C=C2C1OCCO2 | C10H10O5
